US08497381B2
Step 4: [4-Methoxy-2′-(2-oxo-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid
To [4-methoxy-2′-(2-oxo-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester (0.060 g, 1.42 mmol) in 1,4-dioxane:H2O (2:1; 2 mL) was added lithium hydroxide (14 mmol), and the reaction was stirred overnight at room temperature. The pH was adjusted to pH6 with 10% aqueous HCl, and the mixture was extracted with EtOAc. The crude material was purified by silica gel chromatography (0-100% EtOAc in hexanes) to give the title compound. M+H is 410.

reactant | [4-methoxy-2′-(2-oxo-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid methyl ester | 1.42 mmol, 0.060 g | COC(CC=1C=C(C=CC1OC)C1=C(C=C(C=C1)C(F)(F)F)CN1C(OCC1)=O)=O | C21H20F3NO5
reactant | lithium hydroxide | 14 mmol | [OH-].[Li+]
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane H2O | 2 mL | O1CCOCC1.O
product | [4-Methoxy-2′-(2-oxo-oxazolidin-3-ylmethyl)-4′-trifluoromethyl-biphenyl-3-yl]-acetic acid | COC1=C(C=C(C=C1)C1=C(C=C(C=C1)C(F)(F)F)CN1C(OCC1)=O)CC(=O)O | C20H18F3NO5
